*R1 = 1.0407324334365136
*R2 = 2.0857867519728686
*R3 = 3.071199615896663 
*R4 = 4.041770723234123
*R5 = 3.140660073703873
*R6 = 2.0936811661064763
*R7 = 1.0443244500565343 
*Va = 5.194209863050843
*Id = 1.0412616050274464
*Kb = 7.021062278588699
*Kc = 8.137326206873837


* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents

*resistors
R1 2 1 1.0407324334365136
R2 3 2 2.0857867519728686
R3 2 4 3.071199615896663
R4 4 0 4.041770723234123
R5 5 4 3.140660073703873
R6 8 0 2.0936811661064763
R7 6 7 1.0443244500565343

*independent voltage and current sources
Va 1 0 DC 5.194209863050843

Id 6 5 DC 1.0412616050274464

Vf 8 7 DC 0

*dependent voltage and current sources
Hc 4 6 Vf 8.137326206873837

Gb 5 3 2 4 7.021062278588699


.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"
*print v-sweep
*print @R6[i]

echo  "op_TAB"
print all
echo  "op_END"

quit
.endc

.end
